US04704386
(phenylthio)acetyl chloride
To a solution of 5.0 g of (phenylthio)acetic acid in 20 ml of toluene under nitrogen was added 5.2 ml of oxalyl chloride in four portions. The solution was stirred at room temperature for about twenty hours and then concentrated in vacuo to the oily title compound, which was used in subsequent reactions without further purificaton or characterization.

reactant | (phenylthio)acetic acid | 5.0 g | C1(=CC=CC=C1)SCC(=O)O | C8H8O2S
reactant | oxalyl chloride | 5.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | (phenylthio)acetyl chloride | C1(=CC=CC=C1)SCC(=O)Cl | C8H7ClOS
